US07807673B2
Step B: 2,2,2-Trifluoro-N-{2-methyl-5-[(trimethylsilyl)ethynyl]phenyl}acetamide
To a solution of N-(5-bromo-2-methylphenyl)-2,2,2-trifluoroacetamide (15 g, 54 mmol) in THF (300 mL) was added Pd(PPh3)2Cl2 (3.79 g, 5.4 mmol), CuI (513 mg, 2.7 mmol) and TEA (23 mL, 162 mmol). The solution was heated to 60° C. A solution of trimethylsilylacetylene (11.5 mL, 81 mmol) in THF (200 mL) was added dropwise through an addition funnel over about 60 min. After 16 h, the reaction was concentrated onto silica gel and purified by column chromatography to give the desired product (10.92 g, 67%). 1H NMR (400 MHz, d6-DMSO) δ 10.97 (s, 1H), 7.35-7.30 (m, 3H), 2.18 (S, 3H), 0.21 (s, 9H) ppm.

reactant | N-(5-bromo-2-methylphenyl)-2,2,2-trifluoroacetamide | 54 mmol, 15 g | BrC=1C=CC(=C(C1)NC(C(F)(F)F)=O)C | C9H7BrF3NO
reactant | trimethylsilylacetylene | 81 mmol, 11.5 mL | C[Si](C)(C)C#C | C5H10Si
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)2Cl2 | 5.4 mmol, 3.79 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 2.7 mmol, 513 mg | [Cu]I
product | 2,2,2-Trifluoro-N-{2-methyl-5-[(trimethylsilyl)ethynyl]phenyl}acetamide | 10.92 g, 67% | FC(C(=O)NC1=C(C=CC(=C1)C#C[Si](C)(C)C)C)(F)F | C14H16F3NOSi
